US06172064B2
A solution of (2R,3S)-3-(Formyl-2-tetrahydropyranyloxyamino)-2-(3-phenyl-1-propyl)butanoic acid [(1S)-2,2-dimethyl-1-(methylcarbamoyl)-1-propyl]amide (3.0 g, 6.32 mmol) in acetic acid-water (4:1, 10 mL) is heated to 50° C. for 16 h. The reaction mixture is concentrated, then dissolved in toluene and concentrated in vacuo. The procedure is repeated once again to afford the crude product which is triturated from hot dichloromethane-diethyl ether to provide (2R,3S)-3-(Formylhydroxyamino)-2-(3-phenyl-1-propyl)butanoic acid [(1S)-2,2-dimethyl-1-(methylcarbamoyl)-1-propyl]amide as a white solid (2.3 g, 93% yield).

reactant | (2R,3S)-3-(Formyl-2-tetrahydropyranyloxyamino)-2-(3-phenyl-1-propyl)butanoic acid [(1S)-2,2-dimethyl-1-(methylcarbamoyl)-1-propyl]amide | 6.32 mmol, 3.0 g | CC([C@@H](C(NC)=O)NC([C@@H]([C@H](C)N(OC1OCCCC1)C=O)CCCC1=CC=CC=C1)=O)(C)C | C26H41N3O5
solvent | acetic acid water | 10 mL | C(C)(=O)O.O
product | (2R,3S)-3-(Formylhydroxyamino)-2-(3-phenyl-1-propyl)butanoic acid [(1S)-2,2-dimethyl-1-(methylcarbamoyl)-1-propyl]amide | 2.3 g, 93% yield | CC([C@@H](C(NC)=O)NC([C@@H]([C@H](C)N(O)C=O)CCCC1=CC=CC=C1)=O)(C)C | C21H33N3O4
